US08022222B2
Following procedure of Example 83, 4-chloro-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid hydrochloride (0.100 g, 0.2511 mmol), triethylamine (0.1016 g, 1.004 mmol), (DMF (3 mL), ethyl carbonochloridate (0.02641 mL, 0.2762 mmol) and 4-(3-aminopropyl)morpholine (0.07242 g, 0.5022 mmol) were reacted to afford 4-chloro-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)-N-(3-morpholinopropyl)benzamide hydrochloride (0.030 g, 20.50% yield) as off white solid. 1H NMR (DMSO) δ 11.20 (bs, 1H), 10.37 (bs, 1H), 8.83 (t, 1H), 8.23 (d, 1H), 7.87 (dd, 1H), 7.84 (d, 1H), 7.82 (d, 1H), 6.58 (m, 2H), 6.55 (d, 1H), 3.94 (d, 2H), 3.72 (t, 2H), 3.40 (d, 2H), 3.32 (q, 2H), 3.12 (m, 2H), 3.03 (m, 2H), 2.21 (d, 3H), 1.93 (m, 2H); Mass spectrum (esi) m/z=488 (100) (M+H—HCl).

reactant | 4-chloro-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid hydrochloride | 0.2511 mmol, 0.100 g | Cl.ClC1=C(C=C(C(=O)O)C=C1)OC1=CC(=NC=C1)NC=1SC=C(N1)C
reactant | triethylamine | 1.004 mmol, 0.1016 g | C(C)N(CC)CC | C6H15N
reactant | ethyl carbonochloridate | 0.2762 mmol, 0.02641 mL | C(OCC)(=O)Cl | C3H5ClO2
reactant | 4-(3-aminopropyl)morpholine | 0.5022 mmol, 0.07242 g | NCCCN1CCOCC1 | C7H16N2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-chloro-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)-N-(3-morpholinopropyl)benzamide hydrochloride | 0.030 g, 20.50% yield | Cl.ClC1=C(C=C(C(=O)NCCCN2CCOCC2)C=C1)OC1=CC(=NC=C1)NC=1SC=C(N1)C | InChI=1S/C23H26ClN5O3S.ClH/c1-16-15-33-23(27-16)28-21-14-18(5-7-25-21)32-20-13-17(3-4-19(20)24)22(30)26-6-2-8-29-9-11-31-12-10-29;/h3-5,7,13-15H,2,6,8-12H2,1H3,(H,26,30)(H,25,27,28);1H
